US06936602B1
To a solution of methyl 7-bromo-2,3-dihydro-1-benzazepine-4-carboxylate (200 mg) and pyridine (123 mg) in tetrahydrofuran (10 ml) was added 2-thienyl chloride (208 mg) at 0° C., and the mixture was heated at 78° C. overnight. After allowing to cool, to the mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine and dried with magnesium sulfate. The solvent was evaporated, which was recrystallized from hexane-ethyl acetate to give methyl 7-bromo-1-(2-thienylcarbonyl)-2,3-dihydro-1-benzazepine-4-carboxylate (236 mg) as colorless crystals.

reactant | methyl 7-bromo-2,3-dihydro-1-benzazepine-4-carboxylate | 200 mg | BrC=1C=CC2=C(C=C(CCN2)C(=O)OC)C1 | C12H12BrNO2
reactant | pyridine | 123 mg | N1=CC=CC=C1 | C5H5N
reactant | 2-thienyl chloride | 208 mg | S1C(=CC=C1)Cl | C4H3ClS
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | methyl 7-bromo-1-(2-thienylcarbonyl)-2,3-dihydro-1-benzazepine-4-carboxylate | 236 mg | BrC=1C=CC2=C(C=C(CCN2C(=O)C=2SC=CC2)C(=O)OC)C1 | C17H14BrNO3S
